Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abdominal Pain
 
Major Surgical or Invasive Procedure:
___: Laparoscopic appendectomy

 
History of Present Illness:
Mr. ___ is a ___ y/o male without significant pmHX who present 
to ___ with 3 days of abdominal pain beginning diffusely and 
localizing to the RLQ. On presentation he is in no acute 
distress complaining of RLQ pain, intermittent nausea, chills, 
bloating, loss of appetite, and reported low grade temps. He 
denies emesis, diarrhea, prior abdominal surgeries, or recent 
sick contacts. 

 
Past Medical History:
Past Medical History:
-None 

Past Surgical History:
-None
 
Social History:
___
Family History:
Family History:
-noncontributory 

 
Physical Exam:
Vitals:
T: 99.8, HR: 90, BP:151/75, RR:18, Sat: 93% on RA
GEN: A&O, NAD
HEENT: No scleral icterus, mucus membranes moist
CV: RRR, Normal S1 and S2
PULM: Clear to auscultation b/l, No W/R/R
ABD: Soft, non-distended, appropriately tender, incisions clean, 
dry and intact
Ext: No ___ edema, ___ warm and well perfused
 
Pertinent Results:
___ 09:50AM BLOOD WBC-16.2* RBC-5.04 Hgb-15.4 Hct-43.8 
MCV-87 MCH-30.6 MCHC-35.2 RDW-11.5 RDWSD-36.5 Plt ___
___ 05:35AM BLOOD WBC-15.5* RBC-4.75 Hgb-14.5 Hct-41.5 
MCV-87 MCH-30.5 MCHC-34.9 RDW-11.6 RDWSD-37.3 Plt ___
___ 05:26AM BLOOD WBC-13.9* RBC-4.57* Hgb-13.9 Hct-39.6* 
MCV-87 MCH-30.4 MCHC-35.1 RDW-11.6 RDWSD-36.8 Plt ___
___ 09:50AM BLOOD ___ PTT-27.5 ___
___ 05:26AM BLOOD Glucose-134* UreaN-14 Creat-1.0 Na-138 
K-3.8 Cl-100 HCO3-27 AnGap-11
___ 09:50AM BLOOD Glucose-111* UreaN-14 Creat-1.3* Na-138 
K-3.6 Cl-95* HCO3-26 AnGap-17
___ 05:26AM BLOOD Calcium-8.2* Phos-2.1* Mg-2.2

CT ABDOMEN & PELVIS ___: 

FINDINGS:  
  
LOWER CHEST: Visualized lung fields are within normal limits. 
There is no 
evidence of pleural or pericardial effusion. 
  
ABDOMEN: 
  
HEPATOBILIARY: The liver demonstrates homogenous attenuation 
throughout.  
There is no evidence of focal lesions.  There is no evidence of 
intrahepatic or extrahepatic biliary dilatation.  The 
gallbladder is within normal limits. 
  
PANCREAS: The pancreas has normal attenuation throughout, 
without evidence of focal lesions or pancreatic ductal 
dilatation.  There is no peripancreatic stranding. 
  
SPLEEN: The spleen shows normal size and attenuation throughout, 
without 
evidence of focal lesions. 
  
ADRENALS: The right and left adrenal glands are normal in size 
and shape. 
  
URINARY: The kidneys are of normal and symmetric size with 
normal nephrogram. There is no evidence of focal renal lesions 
or hydronephrosis.  A 1.8 cm simple cyst is seen in the upper 
pole of the left kidney.  Subcentimeter hypodensities in 
bilateral kidneys are too small to characterize, but are 
statistically likely to be simple cysts.  There is no 
perinephric abnormality. 
  
GASTROINTESTINAL: The stomach is unremarkable.  Small bowel 
loops demonstrate normal caliber, wall thickness, and 
enhancement throughout.  Diverticulosis of the sigmoid colon is 
noted, without evidence of wall thickening and fat stranding.  
The appendix is dilated up to 1.6 cm, fluid-filled, and 
demonstrates mucosal hyperemia with surrounding fat stranding, 
trace fluid, and fascial thickening (series 2, image 67). 2 
appendicoliths are seen measuring up to 1.3 cm (601; 29). There 
is no free air or drainable fluid collection. 
  
PELVIS: The urinary bladder and distal ureters are unremarkable. 
 There is no free fluid in the pelvis. 
  
REPRODUCTIVE ORGANS: The prostate and seminal vesicles are 
normal. 
  
LYMPH NODES: There is no retroperitoneal or mesenteric 
lymphadenopathy.  There is no pelvic or inguinal 
lymphadenopathy. 
  
VASCULAR: There is no abdominal aortic aneurysm.  No 
atherosclerotic disease is noted. 
  
BONES: Mild degenerative changes are seen in the lumbar spine.  
A 1.9 x 0.9 cm lucent lesion is seen in L4 which does not appear 
aggressive (602; 42). 
  
SOFT TISSUES: An umbilical hernia containing fat is noted. 
  
IMPRESSION:  
  
Acute appendicitis with 2 appendicoliths measuring up to 1.3 cm. 
 Adjacent 
stranding with trace fluid; early microperforation cannot be 
entirely 
excluded.  No drainable fluid collection or free air. 
  

 
Brief Hospital Course:
___ is a ___ year-old otherwise healthy man who presented 
to ___ ED with acute appendicitis. The patient was brought to 
the operating room where they underwent a laparoscopic 
appendectomy on ___. The patient tolerated the procedure 
without complications. On POD#0, the patient's foley was 
removed. The patient was advanced to a regular diet, and IV 
fluids were discontinued. On POD#0 the patient was transitioned 
to PO pain medications, including oxycodone and tylenol. He 
spiked a fever on POD#1 and remained in the hospital for further 
observation and pain control. On POD#2 the patient was 
tolerating a regular diet, pain was well controlled on an oral 
pain regimen, and they had regular flatus/BMs. The patient was 
discharged from the hospital in stable condition to home on 
POD#2 with follow up in clinic in ___ weeks. 
 
Medications on Admission:
None
 
Discharge Medications:
1.  Calcium Carbonate 500 mg PO QID:PRN heart burn  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Appendicitis, s/p appendectomy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.

 
Discharge Instructions:
Dear Mr. ___, 
You came here with abdominal pain and were found to have 
appendicitis on imaging. You successfully underwent surgery for 
appendix removal. You are now tolerating a regular diet and are 
safe to go home.

You should follow up with Dr. ___ our surgery clinic 
in ___ weeks. 

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:

 *You experience new chest pain, pressure, squeezing or 
tightness.

 *New or worsening cough, shortness of breath, or wheeze.

 *If you are vomiting and cannot keep down fluids or your 
medications.

 *You are getting dehydrated due to continued vomiting, 
diarrhea, or other reasons. Signs of dehydration include dry 
mouth, rapid heartbeat, or feeling dizzy or faint when standing.

 *You see blood or dark/black material when you vomit or have a 
bowel movement.

 *You experience burning when you urinate, have blood in your 
urine, or experience a discharge.

 *You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.

 *Any change in your symptoms, or any new symptoms that concern 
you.

 
Followup Instructions:
___